US07365225B2
5-{benzoyl[(4-{[(4-phenoxybenzyl)amino]carbonyl}-1,3-thiazol-2-yl)methyl]amino}-2-hydroxybenzoic acid
The title compound was prepared following the procedure A using 4-phenoxybenzylamine, 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride, benzoyl chloride and 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one. M+(ESI): 580.9

reactant | 4-phenoxybenzylamine | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | 2-(chloromethyl)-1,3-thiazole-4-carbonyl chloride | ClCC=1SC=C(N1)C(=O)Cl | C5H3Cl2NOS
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 6-amino-2,2-dimethyl-4H-1,3-benzodioxin-4-one | NC1=CC2=C(OC(OC2=O)(C)C)C=C1 | C10H11NO3
product | 5-{benzoyl[(4-{[(4-phenoxybenzyl)amino]carbonyl}-1,3-thiazol-2-yl)methyl]amino}-2-hydroxybenzoic acid | C(C1=CC=CC=C1)(=O)N(C=1C=CC(=C(C(=O)O)C1)O)CC=1SC=C(N1)C(=O)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C32H25N3O6S
